US07851626B2
rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(2-methanesulfonyl-ethyl)-piperazin-1-yl]-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(2-methanesulfonyl-ethyl)-piperazine (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound. HR-MS (ES, m/z) calculated for C35H43N4O5SCl2 [(M+H)+] 701.2326, observed 701.2325.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C28H27Cl3N2O3
reactant | 1-(2-methanesulfonyl-ethyl)-piperazine | CS(=O)(=O)CCN1CCNCC1 | C7H16N2O2S
product | rac-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-[4-(2-methanesulfonyl-ethyl)-piperazin-1-yl]-methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCS(=O)(=O)C)C1=C(C=C(C=C1)OC)OC(C)C)C | C35H42Cl2N4O5S
